US04673684
To a solution of 3.27 g of 2-chloroethanol in dry benzene (3.5 ml) was added 0.8 g of conc. sulfuric acid and the mixture was heated, under argon atmosphere, at 50° C. To the mixture was added slowly a solution of 5.0 g of benzhydrol in dry benzene (6.5 ml) and, after 30 minutes from the addition, the whole mixture was refluxed for 1.5 hours. After the mixture was allowed to cool, the benzene layer was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, to give 6.7 g of benzhydryl 2-chloroethyl ether.

reactant | 2-chloroethanol | 3.27 g | ClCCO | C2H5ClO
reactant | sulfuric acid | 0.8 g | S(O)(O)(=O)=O | H2O4S
reactant | benzhydrol | 5.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
solvent | benzene | 3.5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 6.5 ml | C1=CC=CC=C1 | C6H6
product | benzhydryl 2-chloroethyl ether | 6.7 g | ClCCOC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15ClO
